US06271378B1
A. Preparation of dimethyl N-ethoxycarbonyl-1,4-dihydropyridine -4-phosphonate
A solution of pyridine (316 g, 4.0 mol) in acetonitrile (4.0 L) was cooled to 0° C. and ethyl chloroformate (434 g, 4.0 mol) was added over about 1.25 hours while keeping the temperature less than 5° C. The resulting yellow suspension was stirred at −5° C. to 0° C. for 1.5 hours. It was then cooled to −25° C. and trimethyl phosphite (496.3 g, 4.0 mol) was added over 1 hour, keeping the temperature less than −20° C. It was allowed to warm to ambient temperature overnight. The solvent was removed under reduced pressure at t<70° C. and the resulting oil was dissolved in dichloromethane (2.8 L) and washed with water (2 L) 5% HCl (2 L), 2% K2CO3 solution (1 L), and finally water (2 L) to pH neutrality. The solution was then concentrated under reduced pressure to a yellow oil (645 g, 62%) which by capillary GC was a 1:1 mixture of dimethyl N-ethoxycarbonyl-1,4-dihydropyridine-4-phosphonate and dimethyl N-ethoxycarbonyl-1,2-dihydropyridine-2-phosphonate. This material was used directly for the hydrogenation below, since attempted distillation leads to decomposition.

reactant | pyridine | 4.0 mol, 316 g | N1=CC=CC=C1 | C5H5N
reactant | ethyl chloroformate | 4.0 mol, 434 g | ClC(=O)OCC | C3H5ClO2
reactant | trimethyl phosphite | 4.0 mol, 496.3 g | P(OC)(OC)OC | C3H9O3P
solvent | acetonitrile | 4.0 L | C(C)#N | C2H3N
product | dimethyl N-ethoxycarbonyl-1,4-dihydropyridine -4-phosphonate | C(C)OC(=O)N1C=CC(C=C1)P(OC)(=O)OC | C10H16NO5P
